US04605740
7.2 parts 30% methanolic Na-methylate solution and 77 parts 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene are added to 134.8 parts stearylamine. The reaction medium is heated to 60° C. and stirred for 15 hours at this temperature. 300 parts of chloroform are next added and the mixture neutralised with 4 parts concentrated hydrochloric acid. 100 parts of water are added, the organic phase is separated off, and the aqueous phase extracted with 50 parts chloroform. The combined organic phases are reduced in a rotary evaporator at a bath temperature of 90° C. under a vacuum of 20 Torr. The residue is heated in a vacuum to 110° to 120° C. (bath temperature 140° C.). At the conclusion of the furane separation, the sedimentation temperature increases to 140° C. The mixture is cooled down, the product is dissolved in hot acetone, filtered, and allowed to recrystallise. 117 parts N-stearylacrylamide having a melting point of 75° to 77° C. are obtained.

reactant | 2-carbomethoxy-7-oxabicyclo(2,2,1)hept-5-ene | C(=O)(OC)C1C2C=CC(C1)O2 | C8H10O3
reactant | stearylamine | C(CCCCCCCCCCCCCCCCC)N | C18H39N
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | N-stearylacrylamide | C(CCCCCCCCCCCCCCCCC)NC(C=C)=O | C21H41NO
